US07244843B2
Step D. Preparation of 3-(Chloromethyl)-2-(1-chloropropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one
3-(Hydroxymethyl)-2-(1-hydroxypropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one (from Isomer B, 0.20 g, 0.85 mmol) in chloroform (7.6 ml) was added to a stirring solution of thionyl chloride (1.8 ml) in chloroform (10 ml). After refluxing overnight the condenser was removed and the majority of the solvent allowed to evaporate over the next 4 h. The residue was purified by flash chromatography (SiO2, CH2Cl2 to 50% EtOAc in CH2Cl2) affording pure product (0.16 g, 69% yield). MS (ESI) 273/275 (M+H).

reactant | 3-(Hydroxymethyl)-2-(1-hydroxypropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.85 mmol, 0.20 g | OCC1N(C(C2=CC=CC=C2C1)=O)C(CO)C | C13H17NO3
reactant | thionyl chloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | chloroform | 7.6 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(Chloromethyl)-2-(1-chloropropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.16 g, 69% yield | ClCC1N(C(C2=CC=CC=C2C1)=O)C(CCl)C | C13H15Cl2NO
